US07368578B2
A mixture of methyl 3-bromo-2-oxobutanoate (16.2 g), propanethioamide (7.4 g) and ethanol (150 mL) was heated under reflux for 3 hrs. The solvent was evaporated under reduced pressure, saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:4, v/v) to give methyl 2-ethyl-5-methyl-1,3-thiazole-4-carboxylate as a yellow oil (8.1 g, yield 53%).

reactant | methyl 3-bromo-2-oxobutanoate | 16.2 g | BrC(C(C(=O)OC)=O)C | C5H7BrO3
reactant | propanethioamide | 7.4 g | C(CC)(N)=S | C3H7NS
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | methyl 2-ethyl-5-methyl-1,3-thiazole-4-carboxylate | 8.1 g, yield 53% | C(C)C=1SC(=C(N1)C(=O)OC)C | C8H11NO2S
